US09447084B2
Methyl 4-[5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoate
Into a 30-mL pressure tank reactor (20 atm), was placed methanol (10 mL), 3-(4-bromo-3-methylphenyl)-5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole (80 mg, 0.17 mmol, 1.00 equiv), sodium acetate (41 mg, 0.50 mmol, 3.00 equiv), Pd(dppf)Cl2 (12 mg, 0.02 mmol, 0.10 equiv), CO (20 atm). The resulting solution was stirred overnight at 110° C. in an oil bath. The reaction mixture was cooled. The residue was purified by Prep-TLC (EtOAc:PE=10:1). This resulted in 60 mg (78%) of methyl 4-[5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoate as colorless oil.

reactant | 3-(4-bromo-3-methylphenyl)-5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole | 0.17 mmol, 80 mg, 1.00 equiv | BrC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)F)Cl)C | C17H10BrCl2F4NO
reactant | sodium acetate | 0.50 mmol, 41 mg, 3.00 equiv | C(C)(=O)[O-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
catalyst | Pd(dppf)Cl2 | 0.02 mmol, 12 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 4-[5-(3,5-dichloro-4-fluorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylbenzoate | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)OC)C=C1)C)C(F)(F)F | C19H13Cl2F4NO3
